US06284755B1
Step F: Preparation of 2-(2-oxo-piperidin-1-yl)-phenol
To a solution of 2-aminophenol (1.09 g, 0.01 mol), Et3N (4.46 mL, 0.032 mol) and 4-dimethylaminopyridine (0.122 g, 0.001 mol) in CHCl3 (20 mL) in an ice-H2O bath was added dropwise 5-bromovaleryl chloride (2.95 mL, 0.022 mol) with stirring. After 2 hr, the reaction mixture was washed with 1N HCl until the aqueous layer was acidic, then washed with H2O, aqueous saturated NaHCO3 solution, brine, and dried (Na2SO4). Filtration and concentration to dryness gave a yellow oil which solidifed on standing. This bisacylated product was dissolved in DMF (20 mL) and heated at 80° C. with cesium carbonate (4.89 g, 0.015 mol) for 3 hr, then partitioned between EtOAc and ice water. The aqueous layer was extracted with EtOAc (3×), the organics combined, washed with H2O, aqueous saturated NaHCO3 solution, brine, and dried (Na2SO4). Filtration and concentration to dryness gave a crude product which was treated with 1N NaOH solution (12 mL, 0.012 mol) in THF (20 mL)—H2O (10 mL) with stirring at ambient temperature for 2 hr. The reaction mixture was neutralized with 1N HCl (12 mL, 0.012 mol), concentrated, and extracted with EtOAc (3×), the organics combined, washed with H2O, aqueous saturated NaHCO3 solution, brine, and dried (Na2SO4). Filtration and concentration to dryness gave the title compound.

reactant | 2-aminophenol | 0.01 mol, 1.09 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | Et3N | 0.032 mol, 4.46 mL | CCN(CC)CC | C6H15N
reactant | 5-bromovaleryl chloride | 0.022 mol, 2.95 mL | BrCCCCC(=O)Cl | C5H8BrClO
reactant | cesium carbonate | 0.015 mol, 4.89 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | NaOH | 0.012 mol, 1N, 12 mL | [OH-].[Na+]
reactant | HCl | 0.012 mol, 1N, 12 mL | Cl | ClH
catalyst | 4-dimethylaminopyridine | 0.001 mol, 0.122 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | H2O | 10 mL | O | H2O
product | 2-(2-oxo-piperidin-1-yl)-phenol | O=C1N(CCCC1)C1=C(C=CC=C1)O | C11H13NO2
